US05739088
A solution of 100 parts by weight of a neutral calcium alkyl-phenolate in 100 parts by weight of a lubricating oil fraction, 24 parts by weight of calcium hydroxide, 40 parts by weight (2.0 moles per mole of the calcium hydroxide) of orthoboric acid and 400 parts by weight of xylene were put in a 1000-ml four-necked flask fitted with a condenser and heated to 40° C. under agitation. To this mixture were added 200 parts by weight of methanol and 0.5 parts by weight of water and the resulting mixture was heated under agitation to the reflux temperature (66° C.) and reacted for 3 hours. The reaction mixture was further heated to 140° C. to distil out the methanol, water and xylene. Finally the reaction product was diluted twofold with hexane and filtered, and the hexane was distilled out to leave the desired calcium borate overbased alkyl-phenolate (calcium borate-phenate).

reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | orthoboric acid | B(O)(O)O | BH3O3
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | calcium borate | B([O-])([O-])[O-].[Ca+2].B([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/2BO3.3Ca/c2*2-1(3)4;;;/q2*-3;3*+2
